US07994203B2
To a stirred suspension of samarium (598 mg, 3.97 mmol) in CH3CN is added iodine (3.0 g, 11.9 mmol, 3 eq.) and the mixture is stirred at RT for 2 hrs. 1-Methoxy-3-methylbenzene (500 μL, 3.97 mmol, 1 eq) is added followed by the dropwise addition of propionyl chloride (3472 μL, 39.7 mmol). After stirring at RT for 1 hr, the reaction is quenched with water (5 ml) and extracted with EtOAc (2×50 ml). The combined organic extracts are washed with Na2CO3 (2M, 50 ml), sat Na2S2O4 (4×50 ml), water and brine, dried over MgSO4 and concentrated under reduced pressure. The resulting crude residue is purified by column chromatography on silica gel eluting with 10% EtOAc/iso-hexane to yield 1-(4-methoxy-2-methyl-phenyl)-propan-1-one as a clear oil; m/z 179.16 [M+H]+. Alternatively, intermediate C can be made by an analogous process to that for intermediate DA below.

reactant | samarium | 3.97 mmol, 598 mg | [Sm] | Sm
reactant | iodine | 11.9 mmol, 3.0 g, 3 eq. | II | I2
reactant | 1-Methoxy-3-methylbenzene | 3.97 mmol, 500 μL, 1 eq | COC1=CC(=CC=C1)C | C8H10O
reactant | propionyl chloride | 39.7 mmol, 3472 μL | C(CC)(=O)Cl | C3H5ClO
solvent | CH3CN | CC#N | C2H3N
product | 1-(4-methoxy-2-methyl-phenyl)-propan-1-one | COC1=CC(=C(C=C1)C(CC)=O)C | C11H14O2
